US07915415B2
9-Fluoro-6-Phenanthridinamine (0.8 g, 3.7 mmol), and a 50% solution of acetyl chloride (0.4 g, 5.66 mmol) in water containing sodium bicarbonate (0.6 g, 7.54 mmol) was dissolved in isopropyl alcohol (25 mL). The reaction mixture was refluxed for 17 hours under a nitrogen pad. The reaction mixture was cooled to room temperature and the precipitate vacuum filtered and washed with methylene chloride. The crude product was purified by column chromatography using a 1:1 ratio of ethyl acetate and hexanes as the eluants followed by distillation to give 10-fluoro-imidazo[1,2-f]phenanthridine) (0.46 g, 52% yield).

reactant | 9-Fluoro-6-Phenanthridinamine | 3.7 mmol, 0.8 g | FC=1C=CC2=C(N=C3C=CC=CC3=C2C1)N | C13H9FN2
reactant | acetyl chloride | 5.66 mmol, 0.4 g | C(C)(=O)Cl | C2H3ClO
reactant | sodium bicarbonate | 7.54 mmol, 0.6 g | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
solvent | isopropyl alcohol | 25 mL | C(C)(C)O | C3H8O
product | 10-fluoro-imidazo[1,2-f]phenanthridine | 52% yield | FC=1C=CC=2C=3N(C=4C=CC=CC4C2C1)C=CN3 | C15H9FN2
